US05256672
In a 2 liter round-bottomed flask was dissolved 4,5,6,7-tetrahydro-4-oxo-3-phenyl-1,2-benzisoxazol-5-acetic acid ethyl ester (3.0 g) in absolute ethanol (300 ml) at room temperature. Sodium borohydride (6.07 g) was added and the solution was heated to reflux. The solution was cooled to room temperature, then diluted with saturated NH4Cl until a solid appeared. The reaction mixture was basified to pH 9 using 10% NAOH (aq.). The product, an oil, was extracted with ether and the aqueous phase was extracted twice with ether. The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated to give 2.60 g of 4-hydroxy-5-(2-hydroxyethyl)-3-phenyl-4,5,6,7-tetrahydro-1,2-benzisoxazole.

reactant | Sodium borohydride | 6.07 g | [BH4-].[Na+]
reactant | 4,5,6,7-tetrahydro-4-oxo-3-phenyl-1,2-benzisoxazol-5-acetic acid ethyl ester | 3.0 g | C(C)OC(CC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O)=O | C17H17NO4
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | NH4Cl | [NH4+].[Cl-]
product | 4-hydroxy-5-(2-hydroxyethyl)-3-phenyl-4,5,6,7-tetrahydro-1,2-benzisoxazole | 2.60 g | OC1C(CCC2=C1C(=NO2)C2=CC=CC=C2)CCO | C15H17NO3
